US07985753B2
(7-Bromo-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone
In close analogy to the procedure described in Example 1, 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid is reacted with 7-Bromo-1-methyl-1,2,3,4-tetrahydro-isoquinoline to provide the title compound in moderate yield.

reactant | 6-bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 7-Bromo-1-methyl-1,2,3,4-tetrahydro-isoquinoline | BrC1=CC=C2CCNC(C2=C1)C | C10H12BrN
product | (7-Bromo-1-methyl-3,4-dihydro-1H-isoquinolin-2-yl)-(6-bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-methanone | BrC1=CC=C2CCN(C(C2=C1)C)C(=O)C1=NN2C(N=CC(=C2)Br)=C1 | C17H14Br2N4O
